### PR TITLE
[Merged by Bors] - feat(GroupTheory/Index): criteria for subgroup to have index 2

### PR DESCRIPTION
**Pull request by loefflerd**
A few variations on the existing `Subgroup.index_eq_two_iff`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Index.lean [hunk 1]
```diff
@@ -213,6 +213,63 @@ theorem index_eq_two_iff : H.index = 2 ↔ ∃ a, ∀ b, Xor' (b * a ∈ H) (b 
...
+  rw [index_eq_two_iff, (Equiv.inv G).exists_congr]
+  refine fun a ↦ (Equiv.inv G).forall_congr fun b ↦ ?_
+  simp only [Equiv.inv_apply, inv_mem_iff, ← mul_inv_rev]
+
+/-- A subgroup `H` has index two if and only if there exists `a ∉ H` such that for all `b`, one
+of `b * a` and `b` belongs to `H`. -/
+@[to_additive /-- An additive subgroup `H` has index two if and only if there exists `a ∉ H` such
+that for all `b`, one of `b + a` and `b` belongs to `H`. -/]
+lemma index_eq_two_iff_exists_notMem_and :
+    H.index = 2 ↔ ∃ a, a ∉ H ∧ ∀ b, (b * a ∈ H) ∨ (b ∈ H) := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean:230]: To me this feels a bit strange. The `a ∉ H` makes the RHS stronger, but the `∨` rather than the `Xor'` makes the RHS weaker. In my mind, it would really only make sense to have two versions, one where the RHS is as weak as possible (e.g., just `∃ a, ∀ b, (b * a ∈ H) ∨ (b ∈ H)`) and one where the RHS is as strong as possible (e.g., `∃ a, a ∉ H ∧ ∀ b, Xor' (a * b ∈ H) (b ∈ H)`). And likewise for the relindex versions.

Comment (loefflerd) [reply Mathlib/GroupTheory/Index.lean:230]: The "weak as possible" formulation you propose, `∃ a, ∀ b, (b * a ∈ H) ∨ (b ∈ H)`, is too weak: it is not equivalent to `H.index = 2` – it is also satisfied for `H.index = 1` (i.e. `H`=everything) as well. 

On the other hand, `∃ a, a ∉ H ∧ ∀ b, Xor' (a * b ∈ H) (b ∈ H)` is too strong – the first clause of the `and` is redundant, since it is implied by the second (specializing `∀ b, Xor' (a * b ∈ H) (b ∈ H)` to `b = 1` implies that `a ∉ H`). It would seem odd to me to put `P ∧ Q` in the statement of a lemma when `Q` implies `P`.

Comment (loefflerd) [reply Mathlib/GroupTheory/Index.lean:230]: (It would be nice if we could have 
```index_le_two_iff : H.index ≤ 2 ↔ ∃ a, ∀ b, (b * a ∈ H) ∨ (b ∈ H)```
but it doesn't work, because `Subgroup.index` is zero for infinite-index subgroups – a design decision I strongly dislike, precisely because it makes it impossible to reason about inequalities between subgroup indices in a natural way. But that is not a matter for this PR.)

Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean:230]: I see. Although you could have `index_dvd_two_iff`? (Because the zero junk value plays nicely with divisibility).

Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean:230]: (Personally, I've found that almost all of the time, divisibility works fine for inequalities between subgroup indices, with the main exception being `Subgroup.index_inf_le`).

Comment (loefflerd) [reply Mathlib/GroupTheory/Index.lean:230]: That's a good point: I will add `index_dvd_two_iff` (and the relIndex version) – but I'd rather also keep the existing formulation of `index_eq_two_iff_exists_notMem_and`, if that's ok with you.

Comment (tb65536) [reply Mathlib/GroupTheory/Index.lean:230]: Yes, definitely, thanks!

**Comment by loefflerd** [comment]
I added `index_dvd_two_iff`. This was slightly harder than expected since at this point in the library Mathlib doesn't yet know that 2 is prime!

File: Mathlib/GroupTheory/Index.lean [hunk 2]
```diff
@@ -213,6 +213,63 @@ theorem index_eq_two_iff : H.index = 2 ↔ ∃ a, ∀ b, Xor' (b * a ∈ H) (b 
...
+  simp [Subgroup.relIndex, Subgroup.index_eq_two_iff, mem_subgroupOf]
+
+/-- Relative version of `Subgroup.index_eq_two_iff'`. -/
+@[to_additive /-- Relative version of `AddSubgroup.index_eq_two_iff'`. -/]
+theorem relIindex_eq_two_iff' : H.relIndex K = 2 ↔ ∃ a ∈ K, ∀ b ∈ K, Xor' (a * b ∈ H) (b ∈ H) := by
+  simp [Subgroup.relIndex, Subgroup.index_eq_two_iff', mem_subgroupOf]
+
+/-- Relative version of `Subgroup.index_eq_two_iff_exists_notMem_and`. -/
+@[to_additive /-- Relative version of `AddSubgroup.index_eq_two_iff_exists_notMem_and`. -/]
+lemma relIndex_eq_two_iff_exists_notMem_and {G : Type*} [Group G] {H K : Subgroup G} :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Can you use existing variables here?

File: Mathlib/GroupTheory/Index.lean [hunk 3]
```diff
@@ -213,6 +213,63 @@ theorem index_eq_two_iff : H.index = 2 ↔ ∃ a, ∀ b, Xor' (b * a ∈ H) (b 
...
+    H.relIndex K = 2 ↔ ∃ a ∈ K, a ∉ H ∧ ∀ b ∈ K, (b * a ∈ H) ∨ (b ∈ H) := by
+  rw [Subgroup.relIndex, Subgroup.index_eq_two_iff_exists_notMem_and]
+  simp only [mem_subgroupOf, coe_mul, Subtype.forall, Subtype.exists, exists_and_left, exists_prop]
+  refine exists_congr fun g ↦ ?_
+  simp only [and_left_comm]
+
+/-- Relative version of `Subgroup.index_eq_two_iff_exists_notMem_and'`. -/
+@[to_additive /-- Relative version of `AddSubgroup.index_eq_two_iff_exists_notMem_and'`. -/]
+lemma relIndex_eq_two_iff_exists_notMem_and' {G : Type*} [Group G] {H K : Subgroup G} :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: And here?

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by loefflerd** [comment]
Thanks Thomas and Riccardo!

**Comment by riccardobrasca** [comment]
Don't worry if merging fails, it's unrelated to this PR. Once everything is in order I will take care of it.
